US07790751B2
A solution of 1-benzyl-3-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-pyrrolidine (4.2 g, 8.4 mmol) and benzylchloroformate (12.0 mL, 84 mmol in 2 equal portions) in benzene was heated at reflux temperature, under nitrogen, for 3 hours, cooled to ambient temperatures, poured into 2.5 N sodium hydroxide and extracted with ethyl acetate. The extracts were combined, washed sequentially with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The resultant residue was purified by flash chromatography using 40-50% ethyl acetate in hexane to afford 3-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-pyrrolidine-1-carboxylic acid benzyl ester as a buff foam, 3.2 g (70% yield), Mass spectrum (+EI, [M+H]+) m/z 547. 1HNMR (500 MHz, DMSO-d6): δ8.46 (d, 1H, J=7.44 Hz), 8.27 (d, 1H, J=8.06 Hz), 8.06-8.08 (m, 1H), 7.94-7.99 (m, 2H), 7.57-7.68 (m, 3H), 7.26-7.39 (m, 5H), 7.09 (dd, 1H, J=9.15 Hz and 2.68 Hz), 6.77 (s, 1H), 5.19-5.26 (m, 2H), 5.01-5.10 (m, 2H), 4.90 (s, 1H), 3.42-3.59 (m, 2H), 3.31-3.36 (m, 1H), 1.98-2.10 (m, 1H), 1.79-1.86 ppm (m, 1H).

reactant | 1-benzyl-3-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-pyrrolidine | 8.4 mmol, 4.2 g | C(C1=CC=CC=C1)N1CC(CC1)OC1=CC(=C(C=C1)[N+](=O)[O-])CS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C28H26N2O5S
reactant | benzylchloroformate | 84 mmol, 12.0 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | sodium hydroxide | 2.5 N | [OH-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-pyrrolidine-1-carboxylic acid benzyl ester | 70% yield | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)OC1=CC(=C(C=C1)[N+](=O)[O-])CS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C29H26N2O7S
